US05098982
Preparation of N-[1,1-bis(hydroxymethyl)propyl]dimethyl maleimide (HMPDM) (III-a)
2-amino-2-ethyl-1,3-propanediol (I-a) (297.9 grams, 2.50 moles) is charged to a reactor and heated to 70° C. under nitrogen. Then, 315.0 grams (2.50 moles) of 2,3-dimethylmaleic anhydride (DMMA) (II-a) is added portionwise with stirring to the reactor. The material is heated to a sufficient temperature (110°-130° C.) to drive off the water of condensation which is collected in a Dean-Stark trap. Once the theoretical amount of water is collected the product is isolated by vacuum distillation (167°-176° C. at 3 mm Hg). This product is used as an intermediate for the formation of polyurethanes and polyesters as will be described in succeeding examples.

reactant | 2-amino-2-ethyl-1,3-propanediol | 2.50 moles, 297.9 grams | NC(CO)(CO)CC | C5H13NO2
reactant | 2,3-dimethylmaleic anhydride | 2.50 moles, 315.0 grams | C/C=1/C(=O)OC(\C1\C)=O | C6H6O3
solvent | water | O | H2O
product | N-[1,1-bis(hydroxymethyl)propyl]dimethyl maleimide | OCC(CC)(CO)N1C(C(=C(C1=O)C)C)=O | C11H17NO4
